US04806538
A solution of 2-acetylamino-2-[1-(1-naphthyl)ethyl]propanedioic acid diethyl ester (21.59 g) in a mixture of concentrated hydrochloric acid (100 ml) and acetic acid (70 ml) was refluxed for 13 hours. The mixture was concentrated under reduced pressure and the residue was dissolved in water (100 ml). The soluiton was neutralized to pH 5 with 30% sodium hydroxide. The precipitated crystalline solid was collected by filtration to give 2-amino-3-(1-naphthyl)butyric acid (9.76 g).

reactant | 2-acetylamino-2-[1-(1-naphthyl)ethyl]propanedioic acid diethyl ester | 21.59 g | C(C)OC(C(C(=O)OCC)(C(C)C1=CC=CC2=CC=CC=C12)NC(C)=O)=O | C21H25NO5
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-amino-3-(1-naphthyl)butyric acid | 9.76 g | NC(C(=O)O)C(C)C1=CC=CC2=CC=CC=C12 | C14H15NO2
